US06403639B1
Under a nitrogen stream, 0.12 g of 6-t-butyl-5-trimethylacetoxybenzofuran was dissolved in 5 ml of n-hexane at room temperature and 1.31 ml of diisobutylaluminium hydride (1M in n-hexane) was added dropwise and the mixture was stirred overnight. After the reaction was quenched with 5% hydrochloric acid, the mixture was extracted with water and ethyl acetate. The organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified on a short column of silica gel (in n-hexane containing 5% ethyl acetate) to give 0.07 g of 6-t-butyl-5-hydroxybenzofuran as a reddish brown oil.

reactant | 6-t-butyl-5-trimethylacetoxybenzofuran | 0.12 g | C(C)(C)(C)C1=CC2=C(C=CO2)C=C1OC(C(C)(C)C)=O | C17H22O3
reactant | diisobutylaluminium hydride | 1M, 1.31 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | n-hexane | 5 ml | CCCCCC | C6H14
product | 6-t-butyl-5-hydroxybenzofuran | 0.07 g | C(C)(C)(C)C1=CC2=C(C=CO2)C=C1O | C12H14O2
